US04339453
Methyl iodide (0.8 ml, 0.012 m) is added to a stirred solution of 4-(n-dodecylamino)-2-(2-hydroxyethylamino)pyrimidine (3.2 g, 0.01 m) in anhydrous dimethylformamide (25 ml), and the stoppered solution allowed to stir overnight. Anhydrous ether (180 ml) is added slowly in small portions, and the resulting precipitate is allowed to age (stirring) for about one hour. The mixture is filtered, the mother liquors are displaced with small portions of ether, and the cake is washed well with ether and dried to yield 3.4 g (76%) of colorless 4-(n-dodecylamino)-2-(2-hydroxyethylamino)-1-methylpyrimidinium iodide, m.p. 118°-119° C.

reactant | Methyl iodide | 0.8 ml | CI | CH3I
reactant | 4-(n-dodecylamino)-2-(2-hydroxyethylamino)pyrimidine | 3.2 g | C(CCCCCCCCCCC)NC1=NC(=NC=C1)NCCO | C18H34N4O
reactant | ether | 180 ml | CCOCC | C4H10O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-(n-dodecylamino)-2-(2-hydroxyethylamino)-1-methylpyrimidinium iodide | 3.4 g, 76% | [I-].C(CCCCCCCCCCC)NC1=NC(=[N+](C=C1)C)NCCO | InChI=1S/C19H36N4O.HI/c1-3-4-5-6-7-8-9-10-11-12-14-20-18-13-16-23(2)19(22-18)21-15-17-24;/h13,16,24H,3-12,14-15,17H2,1-2H3,(H,20,21,22);1H
